US07179823B1
A mixture of 3-(2-bromoethoxy)benzaldehyde (6.00 g), 1(2H)-phthalazinone (4.21 g), potassium carbonate (7.24 g) and N,N-dimethylformamide (40 ml) was stirred at 80° C. for 5 hours. After cooling, the reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated to obtain 3-[2-[1-oxo-2(1H)-phthalazinyl]ethoxy]benzaldehyde (6.94 g, yield 90%) as colorless crystals. This was recrystallized from acetone-hexane. Melting point: 110–111° C.

reactant | 3-(2-bromoethoxy)benzaldehyde | 6.00 g | BrCCOC=1C=C(C=O)C=CC1 | C9H9BrO2
reactant | 1(2H)-phthalazinone | 4.21 g | C1(NN=CC2=CC=CC=C12)=O | C8H6N2O
reactant | potassium carbonate | 7.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-[1-oxo-2(1H)-phthalazinyl]ethoxy]benzaldehyde | 6.94 g, yield 90% | O=C1N(N=CC2=CC=CC=C12)CCOC=1C=C(C=O)C=CC1 | C17H14N2O3
